US06140351
2-Methoxycarbonyl-3-chloro-4-(2-aminoethyl)thiophene was dissolved in THF (50 mL), and di-tert-butyl dicarbonate (2.23 g, 10.2 mmol) was added at ambient temperature. After 1 hour, water was added, and the reaction mixture was extracted with methylene chloride. The combined extracts were dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash chromatography on gel to afford 1.42 g of 2-methoxycarbonyl-3-chloro-4-(2-(tert-butoxycarbonylamino)-ethyl)thiophene.

reactant | 2-Methoxycarbonyl-3-chloro-4-(2-aminoethyl)thiophene | COC(=O)C=1SC=C(C1Cl)CCN | C8H10ClNO2S
reactant | di-tert-butyl dicarbonate | 10.2 mmol, 2.23 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-methoxycarbonyl-3-chloro-4-(2-(tert-butoxycarbonylamino)-ethyl)thiophene | 1.42 g | COC(=O)C=1SC=C(C1Cl)CCNC(=O)OC(C)(C)C | C13H18ClNO4S
